US08222416B2
To a mixture of toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester (0.45 g, 0.84 mmol), 4-(methanesulfonyl)phenylboronic acid (0.50 g, 2.5 mmol) and dichlorobis(triphenylphosphine)palladium (II) (59 mg, 0.08 mmol) in dioxane (8 mL) was added an aqueous sodium carbonate solution (2 M, 1.25 mL). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The mixture was diluted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 50% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (0.36 g, 57%) as a white solid: LC/MS m/e calcd for C27H26N2O5S2 [M+H]+ 523.65, observed 523.3.

reactant | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl ester | 0.84 mmol, 0.45 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCOCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H26N2O6S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 2.5 mmol, 0.50 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2 M, 1.25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.08 mmol, 59 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.36 g, 57% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C | C27H26N2O5S2
